US06235787B1
A solution of 1.0 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide, 0.35 g of glutaric anhydride and 0.85 ml of triethylamine in 30 ml of dry toluene was heated at reflux under a nitrogen atmosphere for 7 hours. The mixture was cooled to room temperature and washed with 2M aqueous hydrochloric acid, 5% aqueous sodium hydrogen carbonate and brine. The organic phase was dried over anhydrous magnesium sulphate and the solvent was then evaporated. The residue was triturated with diethyl ether to give 0.623 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-N-(2,6-dioxopiperidino)valeramide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide | 1.0 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN)CC(C)C | C21H32N2O3
reactant | glutaric anhydride | 0.35 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | triethylamine | 0.85 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-N-(2,6-dioxopiperidino)valeramide | 0.623 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN1C(CCCC1=O)=O)CC(C)C | C26H36N2O5
